* C:\Users\tjagielski\Documents\Projects\School\Sophomore - Semester 2\Circuits\Labs\Lab 7\NMOS_diff_pair.asc
V1 V1 0 3.6
V2 V2 0 3
Vdd P001 0 5
Vb Vb 0 1
XU5 P001 vdd
XU1 N006 Vb 0 nmos3
XU2 N003 V1 N005 nmos3
XU3 N005 V2 N004 nmos3
V§I1 N001 N003 0
V§I2 N002 N004 0
V§Ib N005 N006 0
XU4 N001 vdd
XU6 N002 vdd
.include engr2420.sub
.dc V1 2.2 3.8 0.001
* WI-MI: Vb = 0.6152 V\nSI: Vb = 1 V
.backanno
.end
