* C:\Users\sbansal\Desktop\Circuits\MicroelectronicCircuits\lab5\LTspice\Experiment3_pmos.asc
Vdd N001 0 5
VG N002 0 0
XU1 P001 N002 N001 pmos3
Vin P001 0 1
.dc Vin 0 5 0.01
.include engr2420.sub
.backanno
.end
